US08877782B2
5-Bromo-N-isopropyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 8b, 5-bromo-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (240 mg, 0.6 mmol), instead of 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid, was converted, using isopropylamine instead of methylamine, to the title compound (229 mg, 86%) which was obtained as an off white foam. MS: m/e=430.3/432.2 [M+H]+.

reactant | 5-bromo-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.6 mmol, 240 mg | BrC=1C(=NC=C(C(=O)O)C1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C17H13BrN2O4
reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 5-Bromo-N-isopropyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide | 229 mg, 86% | BrC=1C(=NC=C(C(=O)NC(C)C)C1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C20H20BrN3O3
